US06429314B1
A total of 1 g of sodium borohydride was slowly added to a mixture of 5.6 g of 1,3-diacetyladamantane, 20 ml of methanol, and 3 ml of 0.1 N sodium hydroxide aqueous solution on a water bath. After stirring for 30 minutes at room temperature, the resultant mixture was neutralized with a 1 N hydrochloric ac4d aqueous solution. To the neutralized mixture was added 50 ml of water, and the resultant mixture was extracted with three portions of 100 ml of ethyl acetate. The obtained organic layer was concentrated to give 5.5 g of 1,3-bis(1-hydroxyethyl)adamantane.

reactant | sodium borohydride | 1 g | [BH4-].[Na+]
reactant | 1,3-diacetyladamantane | 5.6 g | C(C)(=O)C12CC3(CC(CC(C1)C3)C2)C(C)=O | C14H20O2
reactant | methanol | 20 ml | CO | CH4O
reactant | sodium hydroxide | 0.1 N, 3 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 1,3-bis(1-hydroxyethyl)adamantane | 5.5 g | OC(C)C12CC3(CC(CC(C1)C3)C2)C(C)O | C14H24O2
